US06949563B2
To a solution of 4-Chloro-1H-pyrrolo[2,3-b]pyridine (12.9 g, 84.3 mmol) and NaI (40 g, 168 mmol) in acetonitrile (150 mL) was slowly added acetyl chloride (12.6 mL, 176 mmol). The mixture was allowed to stir at 80° C. for 4 days, and then the excess acetonitrile was removed in vacuo. 300 mL of 10% K2CO3 (aq) was added to the residue and the mixture extracted with CH2Cl2 (3×100 mL). The combined organic extracts were washed with 10% sodium bisulfite (aq) and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give crude product (22.2 g). To a solution of this crude product in THF (150 mL) was added 1M NaOH (100 mL). The mixture was stirred at room temperature for 2 hr prior to evaporation of the solvent in vacuo, dilution with water and extraction with CH2Cl2. The extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting brown solid was purified by chromatography over silica gel and recrystallized from acetonitrile to give pure 4-Iodo-1H-pyrrolo[2,3-b]pyridine (9.75 g, 48%). MS (ES+): 245 [MH+].

reactant | 4-Chloro-1H-pyrrolo[2,3-b]pyridine | 84.3 mmol, 12.9 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | NaI | 168 mmol, 40 g | [Na+].[I-]
reactant | acetyl chloride | 176 mmol, 12.6 mL | C(C)(=O)Cl | C2H3ClO
reactant | NaOH | 1M, 100 mL | [OH-].[Na+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-Iodo-1H-pyrrolo[2,3-b]pyridine | 9.75 g, 48% | IC1=C2C(=NC=C1)NC=C2 | C7H5IN2
